US04673674
(a) 3-Phenyl-1H-indol-2-ethanamine carbamic acid ethyl ester
To a solution of 18.9 g 3-phenyl-1H-indol-2-ethanamine in 220 ml methylene chloride are added 15.3 ml of chloroformic ethyl ester followed by 110 ml water. The mixture is stirred for 10 minutes. 6.4 g sodium hydroxide in 100 ml water are added and stirring is continued for further 20 minutes at room temperature. The organic phase is separated, washed once with 2N tartaric acid and water, dried and evaporated under reduced pressure. The oily residue of the heading compound is used without further purification.

reactant | 3-phenyl-1H-indol-2-ethanamine | 18.9 g | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)CCN | C16H16N2
reactant | chloroformic ethyl ester | 15.3 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium hydroxide | 6.4 g | [OH-].[Na+]
solvent | methylene chloride | 220 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | water | 110 ml | O | H2O
product | 3-Phenyl-1H-indol-2-ethanamine carbamic acid ethyl ester | C(C)OC(N)=O.C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)CCN | InChI=1S/C16H16N2.C3H7NO2/c17-11-10-15-16(12-6-2-1-3-7-12)13-8-4-5-9-14(13)18-15;1-2-6-3(4)5/h1-9,18H,10-11,17H2;2H2,1H3,(H2,4,5)
